US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and 2-(piperazin-1-yl)ethanol gave 2-(4-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperazin-1-yl)ethanol as a cream solid (0.30 g, 95%). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 3.78 (s, 3H), 3.67 (t, J=5.3 Hz, 2H), 3.26 (t, J=4.6 Hz, 4H), 2.72-2.62 (m, 6H). OH not seen

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 2-(piperazin-1-yl)ethanol | N1(CCNCC1)CCO | C6H14N2O
product | 2-(4-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperazin-1-yl)ethanol | 0.30 g, 95% | CN1N=CC(=C1N1CCN(CC1)CCO)[N+](=O)[O-] | C10H17N5O3
